US08293895B2
A solution of 2-(tert-butoxycarbonylaminomethyl)-furan (9.8 g, 50 mmol) in 150 mL of dichloromethane was added into a flask, and the reaction mixture was cooled to 0° C. in an ice bath. A solution of pyridine-sulfur trioxide adduct (15.9 g, 100 mmol) in 100 mL of dichloromethane were added dropwise. Upon completion of the addition, the reaction mixture was allowed to warm to room temperature. The mixture was stirred at room temperature for additional 8 h. After the completion of the reaction, the reaction mixture was then extracted with water (400 mL×2). Aqueous hydrochloric acid (10%) was slowly added dropwise to the aqueous layer. The aqueous layer was adjusted to pH 6.5-7, and extracted with dichloromethane (500 mL×2). The organic layer was washed by saturated brine, and concentrated under reduced pressure to give 5.5 g (40.0% yield) of 5-(tert-butoxycarbonylaminomethyl)furan-2-sulfonic acid.

reactant | 2-(tert-butoxycarbonylaminomethyl)-furan | 50 mmol, 9.8 g | C(C)(C)(C)OC(=O)NCC=1OC=CC1 | C10H15NO3
reactant | pyridine-sulfur trioxide | 100 mmol, 15.9 g | C1=CC=NC=C1.O=S(=O)=O
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-(tert-butoxycarbonylaminomethyl)furan-2-sulfonic acid | 5.5 g, 40.0% yield | C(C)(C)(C)OC(=O)NCC1=CC=C(O1)S(=O)(=O)O | C10H15NO6S
